US09314021B2
PABA
Menthyl Anthranilate or Salicylate

reactant | Menthyl Anthranilate | C(C=1C(N)=CC=CC1)(=O)OC1CC(CCC1C(C)C)C | C17H25NO2
reactant | Salicylate | C(C=1C(O)=CC=CC1)(=O)[O-]
product | PABA | C1=CC(=CC=C1C(=O)O)N | C7H7NO2
